US07517992B2
b) 5-Ethynyl-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylic acid
Ethyl 5-[(trimethylsilyl)ethynyl]-1a,2,3,7b-tetrahydro-1-H-cyclopropa[a]naphthalene-1-carboxylate (0.2 g, 0.64 mmol) was dissolved in 4 ml of methanol and the solution of sodium hydroxide (0.05 g, 1.2 mmol) in 2 ml of water was added to the reaction mixture and stirred at heating at 65° C. for 6 h. The extraction of basic reaction mixture into hexane showed that no starting material present. The reaction mixture was acidified with excess of 3M HCl solution (pH=1), and extracted into ethylacetate (3×15 ml). The combined extracts were washed with water and brine, dried over Na2SO4 and concentrated by rotary evaporation to give 0.12 g of mixture of cis/trans acids (85:15) as white solid. Yield 88%. 7

reactant | Ethyl 5-[(trimethylsilyl)ethynyl]-1a,2,3,7b-tetrahydro-1-H-cyclopropa[a]naphthalene-1-carboxylate | 0.64 mmol, 0.2 g | C[Si](C)(C)C#CC=1C=C2CCC3C(C2=CC1)C3C(=O)OCC | C19H24O2Si
reactant | sodium hydroxide | 1.2 mmol, 0.05 g | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 5-Ethynyl-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylic acid | 0.12 g, Yield 88% | C(#C)C=1C=C2CCC3C(C2=CC1)C3C(=O)O | C14H12O2
